US07655664B2
In Route C, commercially available 5-bromo-2-methoxy-4-methylpyridine in anhydrous tetrahydrofuran is metallated with n-BuLi and then treated with N,N-dimethylformamide to afford 6-methoxy-4-methylnicotinaldehyde. This was converted to the tert-butylimine with tert-butylamine in dichloromethane. Metallation with lithium 2,2,6,6-tetramethylpiperidide (Li-TMP) (cf. J. Org. Chem. 1993, 58, 2463-2467) and addition of N,N-dimethylformamide affords the iminoacetaldehyde which is reduced with sodium cyanoborohydride in methanol to give 2-tert-butyl-6-methoxy-1,2,3,4-tetrahydro-2,7-naphthyridine. Cleavage of the methyl group with refluxing 48% hydrobromic acid and treatment with triflic anhydride in the presence of base gives (VIIb) protected as the tert-butylamine.

reactant | 5-bromo-2-methoxy-4-methylpyridine | BrC=1C(=CC(=NC1)OC)C | C7H8BrNO
reactant | n-BuLi | [Li]CCCC
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-methoxy-4-methylnicotinaldehyde | COC1=NC=C(C=O)C(=C1)C | C8H9NO2
